US04526723
Preparation of 3-octanoyloxy-2-(4'-methylphenyl)-5,5-dimethyl-2-cyclohexenone
Using the procedure described in Example III and starting with 3.00 g (0.0130 mol) of 2-(4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione, 1.59 g (0.0098 mol) of octanoyl chloride, 2.63 g (0.0260 mol) of triethylamine, and 30 mol of methylene chloride, 2.5 g (71% yield) of a clear, colorless oil was obtained as the desired product.

reactant | 2-(4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione | 0.0130 mol, 3.00 g | CC1=CC=C(C=C1)C1C(CC(CC1=O)(C)C)=O | C15H18O2
reactant | octanoyl chloride | 0.0098 mol, 1.59 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | triethylamine | 0.0260 mol, 2.63 g | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 30 mol | C(Cl)Cl | CH2Cl2
product | 3-octanoyloxy-2-(4'-methylphenyl)-5,5-dimethyl-2-cyclohexenone | 71% yield | C(CCCCCCC)(=O)OC1=C(C(CC(C1)(C)C)=O)C1=CC=C(C=C1)C | C23H32O3
